US03951952
b. β-Carbomethoxypropionamidine hydrochloride
To a suspension of 16.5 g. (0.09 mole) of methyl β-carbomethoxypropionimidate hydrochloride in 20 ml. of methanol at ice bath temperatures is added 12 ml. of the same solvent containing 1.7 g. of dissolved ammonia gas. The reaction mixture is allowed to stir at room temperature for 2 hrs., followed by filtration of some insoluble material and concentration of the filtrate to near dryness. The residual white solids are treated with ethanol, filtered and dried, 7.8 g. (51.5% yield), m.p. 132°-134° C.

reactant | methyl β-carbomethoxypropionimidate hydrochloride | 0.09 mole | Cl.C(=O)(OC)CCC(OC)=N
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | β-Carbomethoxypropionamidine hydrochloride | 51.5% yield | Cl.C(=O)(OC)CCC(=N)N | InChI=1S/C5H10N2O2.ClH/c1-9-5(8)3-2-4(6)7;/h2-3H2,1H3,(H3,6,7);1H
